US09403807B2
Step B: Methyl 2-(4-chlorophenyl)-2-(4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indol-1-yl)butanoate
A mixture of methyl 2-(4-amino-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate (140 mg), hexane-2,5-dione (166 mg) and 4-methylbenzenesulfonic acid (3 mg) in toluene (5 mL) was stirred under reflux for 30 min. Concentrated, the residue was purified by chromatography on silica gel column (5-15% ethyl acetate in hexanes) to give the title compound as a yellow solid. LC/MS m/z=421.2 [M+H]+.

reactant | methyl 2-(4-amino-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate | 140 mg | NC1=C2C=CN(C2=CC=C1)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C19H19ClN2O2
reactant | hexane-2,5-dione | 166 mg | CC(CCC(C)=O)=O | C6H10O2
reactant | 4-methylbenzenesulfonic acid | 3 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-(4-chlorophenyl)-2-(4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indol-1-yl)butanoate | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1C=CC2=C(C=CC=C12)N1C(=CC=C1C)C | C25H25ClN2O2
